US08710046B2
To a stirred solution of quinuclidin-4-ylmethanamine (1.0 g, 7.14 mmol) in 1,4-dioxane (30 mL) was added methyl 3-formyl-1H-indazole-4-carboxylate (1.2 g, 6.0 mmol) in 1,4-dioxane (10 mL). Then glacial acetic acid (1% of total solvent used) was added and the reaction mixture was stirred at 60° C. for 2 h. It was cooled to room temperature and sodium triacetoxyborohydride (3.8 g, 17.9 mmol) was added. The reaction mixture was stirred at room temperature for 4 h). The solvent was removed under reduced pressure and the crude material was purified by column chromatography (silica gel, 70:27:3 dichloromethane/methanol/concentrated ammonium hydroxide) to give methyl 3-((quinuclidin-4-ylmethylamino)methyl)-1H-indazole-4-carboxylate as a brown oil (2.1 g, quantitative yield): 1H NMR (500 MHz, CD3OD) δ 7.87 (d, J=8.0 Hz, 1H), 7.81 (d, J=8.0 Hz, 1H), 7.49 (t, J=8.0 Hz, 1H), 4.38 (s, 2H), 3.99 (s, 3H), 3.27 (t, J=8.0 Hz, 6H), 2.68 (s, 2H), 1.78 (t, J=8.0 Hz, 6H); MS (ESI+) m/z 329 (M+H).

reactant | quinuclidin-4-ylmethanamine | 7.14 mmol, 1.0 g | N12CCC(CC1)(CC2)CN | C8H16N2
reactant | methyl 3-formyl-1H-indazole-4-carboxylate | 6.0 mmol, 1.2 g | C(=O)C1=NNC=2C=CC=C(C12)C(=O)OC | C10H8N2O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 17.9 mmol, 3.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | methyl 3-((quinuclidin-4-ylmethylamino)methyl)-1H-indazole-4-carboxylate | 2.1 g, quantitative yield | N12CCC(CC1)(CC2)CNCC2=NNC=1C=CC=C(C21)C(=O)OC | C18H24N4O2
